US07531553B2
Step B: 4-(1H-Pyrrolo[2,3-b]pyridin-4-yloxy)phenol
4-(4-Benzyloxy-phenoxy)-1H-pyrrolo[2,3-b]pyridine (Step a, 9.0 g, 28.4 mmol, 1.0 eq.) was suspended into MeOH (200 mL) and the atmosphere was replaced by argon. 10% Pd/C (3 g total), was added and the argon was replaced by a H2 atmosphere. The mixture was stirred for 16 h at 60 psi at RT (using Parr shaker). The reaction showed about 50% conversion to product (monitored by HPLC). More 10% Pd/C was added and reacted another 16 h at 60 psi. More 10% Pd/C was added and reacted another 16 h at 60 psi. TLC showed reaction done. The Pd/C was filtered, the MeOH removed and the obtained 4-(1H-pyrrolo[2,3-b]pyridin-4-yloxy)phenol was used crude in the next step.

reactant | 4-(4-Benzyloxy-phenoxy)-1H-pyrrolo[2,3-b]pyridine | C(C1=CC=CC=C1)OC1=CC=C(OC2=C3C(=NC=C2)NC=C3)C=C1 | C20H16N2O2
catalyst | Pd/C | 3 g | [Pd] | Pd
solvent | MeOH | 200 mL | CO | CH4O
product | 4-(1H-Pyrrolo[2,3-b]pyridin-4-yloxy)phenol | N1C=CC=2C1=NC=CC2OC2=CC=C(C=C2)O | C13H10N2O2
